US07078428B2
3-Fluoro-N-isobutylphthalimide is prepared as described in Example 2, starting with 3.4 g of 3-fluorophthalic anhydride, 2.0 cm3 of isobutylamine and a catalytic amount of para-toluenesulfonic acid in 20 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 140° C. for 3 hours. After cooling to a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2 kPa). The residue is taken up in dichloromethane and washed with saturated aqueous sodium bicarbonate solution. The organic phase is separated out after settling has taken place, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is dried in a desiccator under reduced pressure (2 kPa) at a temperature in the region of 20° C. 4.0 g of 3-fluoro-N-isobutylphthalimide are thus obtained in the form of an off-white powder. (Rf=0.73, thin layer chromatography on silica gel, eluent: dichloromethane).

reactant | 3-fluorophthalic anhydride | 3.4 g | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | isobutylamine | 2.0 cm3 | C(C(C)C)N | C4H11N
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 cm3 | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-N-isobutylphthalimide | 4.0 g | FC1=C2C(C(=O)N(C2=O)CC(C)C)=CC=C1 | C12H12FNO2
